US04912231
B. (trans)-1-o-Chlorobenzoyl-4-phenyl-L-proline
A suspension of aluminum trichloride (100 mg, 0.75 mmole) in benzene (3.7 ml) was stirred under argon and treated with (cis)-1-o-chloro- benzoyl-4-fluoro-L-proline (60 mg, 0.22 mmole). After stirring overnight, the reaction was cooled, quenched with 1N HCl and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried and concentrated in vacuo. The residue consisted of

reactant | aluminum trichloride | 0.75 mmole, 100 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | (cis)-1-o-chloro- benzoyl-4-fluoro-L-proline | 0.22 mmole, 60 mg | ClC1=C(C(=O)N2[C@H](C(=O)O)C[C@@H](C2)F)C=CC=C1 | C12H11ClFNO3
solvent | benzene | 3.7 ml | C1=CC=CC=C1 | C6H6
product | (trans)-1-o-Chlorobenzoyl-4-phenyl-L-proline | ClC1=C(C(=O)N2[C@H](C(=O)O)C[C@H](C2)C2=CC=CC=C2)C=CC=C1 | C18H16ClNO3
